Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo G4P3 LMP approximately 1 month ago presents c/o lower 
abdominal pain radiating to the side and back. Patient states 
she stopped by her PCP yesterday who got a urinalysis which 
showed UTI and positive pregnancy. Patient was referred here for 
possible STI. Patient denies any vaginal discharge or bleeding. 
Patient endorses vomiting today and yesterday. Denies fevers, 
but endorses chills. Denies diarrhea. Patient also endorses some 
SOB which is associated with pain

In the ED, VS:  97.2 107 115/55 18 100% RA.  

Notable labs: WC 7.2 Ct 7.2, Hb 11.1--> 8.2--> 10.8, UCG 
positive, HCG 4374, serum tox and urine tox negative, UA 
unremarkable, lactate 1.2, and unremarkable chem-7 and LFTs 

Pt given 5 L NS, fentanyl 50 mcg x 4, morphine 2 mg x 1, 
Tylenol, clindamycin/gentamycin 

Imaging:
TV US:
Intrauterine gestational sac measuring 7 mm in mean sac diameter 
with a visualized yolk sac.  Too early to definitively see an 
embryonic pole. 
  
Trace free fluid in the pelvis.  No adnexal masses identified. 

Abdominal US:
No free fluid in the abdomen. Limited evaluation of the liver, 
right kidney and spleen are within normal limits. 

MRI Abdomen/Pelvis: 
1. Normal appendix. No acute pathology to explain the patient's 
symptoms.
2. Normal sized right ovary with a corpus luteum. There is a 
moderate amount of free fluid in the pelvis, greater on the 
right than the left, and increased in amount from the prior 
ultrasounds. This is nonspecific. There is no hemorrhagic fluid 
in the abdomen or pelvis.
3. Periportal edema, likely from fluid resuscitation.
Patient given 5 L NS, fentanyl citrate 50 mcg x 4, clindamycin 
and gentamicin, acetaminophen 1000 mg, and morphine 2 mg x 1.   

Consults: Ob-gyn
Recommendations: Presentation not consistent with ectopic 
pregnancy. Has intrauterine pregnancy; heterotopic pregnancy 
very unlikely and no e/o hemorrhagic fluid. Free fluid noted on 
MRI may be secondary to fluid resuscitation. Ruptured ovarian 
cyst also on differential. No need for urgent OR intervention 
for GYN etiology. Need to consider alternative causes of Hct 
drop. Could be baseline anemia with fluid resuscitation, versus 
GI etiology. 

Regarding abdominal pain, given no elevation in white count and 
afebrile with no CMT or abnormal discharge, unlikely to be PID, 
so can stop treatment for this and entertain other sources of 
abdominal pain.

Consults: ACS
Recs: Normal appendix. No acute pathology on MRI. No acute 
surgical issues at this time

On arrival to the FICU, SBP 110s, HR ___, continues to have 
abdominal pain that is in her lower abdomen.  No 
nausea/vomiting.  Complains that foley is uncomfortable. 
 
Past Medical History:
Hx IVDU, currently on suboxone, Hepatitis C - previously 
treated, depression, PTSD, night terrors, asthma 

 
Social History:
___
Family History:
family history of diabetes and breast cancer 

 
Physical Exam:
ADMISSION
Vitals: T: 98.6 BP: 117/61 P: 97 R: 24 O2:  100% on RA
GENERAL: younger female lying in bed in NAD 
HEENT:  neck supple no JVP
LUNGS: CTA bl
CV: RRR no mrg
ABD:  soft, diffusely tender in LLQ and RLQ, greatest in RUQ, no 
rebound tenderness, no active or passive guarding 
EXT: wwp

avss normotensive
soft non tender no focal rebound or guarding abd not distended
 
Pertinent Results:
ADMISSION LABS

___ 09:40PM BLOOD WBC-7.2 RBC-3.72* Hgb-11.1* Hct-32.5* 
MCV-87 MCH-29.8 MCHC-34.2 RDW-12.3 RDWSD-39.5 Plt ___
___ 05:20AM BLOOD WBC-4.5 RBC-2.95* Hgb-8.8* Hct-26.3* 
MCV-89 MCH-29.8 MCHC-33.5 RDW-12.4 RDWSD-39.7 Plt ___
___ 06:25AM BLOOD WBC-4.1 RBC-2.77* Hgb-8.2* Hct-24.8* 
MCV-90 MCH-29.6 MCHC-33.1 RDW-12.4 RDWSD-40.7 Plt ___
___ 12:39PM BLOOD WBC-3.8* RBC-3.66*# Hgb-10.8*# Hct-32.6*# 
MCV-89 MCH-29.5 MCHC-33.1 RDW-12.5 RDWSD-40.9 Plt ___
___ 09:40PM BLOOD Neuts-67.6 ___ Monos-7.0 Eos-0.7* 
Baso-0.1 Im ___ AbsNeut-4.89 AbsLymp-1.76 AbsMono-0.51 
AbsEos-0.05 AbsBaso-0.01
___ 06:25AM BLOOD Neuts-55.1 ___ Monos-9.5 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-2.27# AbsLymp-1.36 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.02
___ 12:39PM BLOOD Neuts-54.9 ___ Monos-9.1 Eos-1.6 
Baso-0.5 AbsNeut-2.06 AbsLymp-1.27 AbsMono-0.34 AbsEos-0.06 
AbsBaso-0.02
___ 09:40PM BLOOD Plt ___
___ 05:20AM BLOOD Plt ___
___ 06:25AM BLOOD Plt ___
___ 12:39PM BLOOD Plt ___
___ 09:40PM BLOOD Glucose-88 UreaN-13 Creat-0.6 Na-138 
K-4.0 Cl-103 HCO3-22 AnGap-17
___ 12:39PM BLOOD ALT-38 AST-31 AlkPhos-45 TotBili-1.2
___ 12:39PM BLOOD Lipase-15
___ 12:39PM BLOOD Albumin-3.7
___ 09:40PM BLOOD HCG-4374
___ 09:40PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 05:37AM BLOOD Lactate-1.2

STUDIES AND IMAGING
Imaging:
TV US ___
Intrauterine gestational sac measuring 7 mm in mean sac diameter 
with a visualized yolk sac.  Too early to definitively see an 
embryonic pole. 
  
Trace free fluid in the pelvis.  No adnexal masses identified. 

Abdominal US ___
No free fluid in the abdomen. Limited evaluation of the liver, 
right kidney and spleen are within normal limits. 

MRI Abdomen/Pelvis ___ 
1. Normal appendix. No acute pathology to explain the patient's 
symptoms.
2. Normal sized right ovary with a corpus luteum. There is a 
moderate amount of free fluid in the pelvis, greater on the 
right than the left, and increased in amount from the prior 
ultrasounds. This is nonspecific. There is no hemorrhagic fluid 
in the abdomen or pelvis.
3. Periportal edema, likely from fluid resuscitation.

 
Brief Hospital Course:
___ w hospitalization for evaluation of abdominal pain
in context of new pregnancy, UTI, abdominal imaging unrevealing
for alternative source of pain, as well as hypotension 
attributed
to opiate drugs, chronic anemia now improved with two unit blood
transfusion and no signs of ongoing bleeding.

She has first trimester pregnancy now.  Pre-natal vitamin 
prescribed.

her anemia significantly improved and her discharge hgb was 12.  
she did not have evidence of fe def or b12, folate deficiency.  

I reviewed her chronic medications with OB and pharmacy.  I 
advised the patient not use prazosin (used for nightmares/ptsd), 
clonidine, doxazosin given class C and that she experienced 
hypotension.

I also advised patient to use subutext to replace suboxone.  I 
could not reach her suboxone provider to pass this along.

I spoke with her ___ RN and reviewed the hospital course, 
notable medications in pregnancy.

Patient was provided contact for OB dept at ___ but patient 
stated she may prefer to have OB care at ___.

Patient may remain on her SSRI per OB consult.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Doxazosin 10 mg PO HS 
2. Sertraline 100 mg PO DAILY 
3. Prazosin 1 mg PO QHS 
4. CloniDINE 0.1 mg PO TID 
5. Gabapentin 600 mg PO TID 

 
Discharge Medications:
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Sertraline 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy
abdominal pain
hypotension
anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for evaluation of abdominal pain and were 
found to have a approximately ___ week pregnancy.  your blood 
pressure decreased after you received opiate medications and 
improved with holding those and with use of IV fluids and blood 
transfusions.  you did not have signs of active bleeding but may 
have iron deficiency.

be sure to take a pre-natal vitamin that contains iron.

it is vital that you have appropriate follow up regarding your 
pregnancy.

we discussed that you should hold clonidine and prazosin because 
of the low blood pressure you had and that they are class C for 
pregnancy 

Risk cannot be ruled out 
Either studies in animals have revealed adverse effects on the 
fetus (teratogenic or embryocidal effects or other) and there 
are no controlled studies in women, or studies in women and 
animals are not available. Drugs should be given only if the 
potential benefits justify the potential risk to the fetus. 

I also advised you that your suboxone provider should move you 
to subutex as this is the preferred drug for patient's who are 
pregnant but you were not able to provide the name or location 
of this prescriber.

many medications can cause damage to a fetus and you should 
discuss that you are pregnant with all prescribes of your 
medications and your pharmacist.  

 
Followup Instructions:
___